US08071581B2
Step 1: (2-amino-benzothiazol-6-yl)-acetic acid
(4-Amino-phenyl)-acetic acid (20 g, 132.5 mmol) and NH4SCN (20 g, 263.2 mmol) were dissolved in 300 ml of acetic acid and the mixture was cooled to 15° C., treated with Br2 (21.2 g, 6.8 ml) in acetic acid (10 ml) and the temperature did not exceed 15° C. Then the reaction was stirred at room temperature for 4 h. The mixture was filtered and the cake was re-dissolved in water, adjusted the pH=5. The precipitate was filtered and dried to obtain 2-amino-benzothiazol-6-yl)-acetic acid as light yellow powder (24 g, 87.1%).

reactant | (4-Amino-phenyl)-acetic acid | 132.5 mmol, 20 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | NH4SCN | 263.2 mmol, 20 g | [NH4+].N#C[S-]
reactant | Br2 | 6.8 ml, 21.2 g | BrBr | Br2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (2-amino-benzothiazol-6-yl)-acetic acid | NC=1SC2=C(N1)C=CC(=C2)CC(=O)O | C9H8N2O2S
